US05688803
9,10-Dimethyl-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione
0.67 g (0.0020 mol) of ethyl 5,6-dimethyl-2-hydroxy-quinazolin-4-yl-carbazate in 38 ml of dimethylformamide was boiled under reflux for 2 hrs. The reaction mixture was cooled to room temperature and then poured on to ice-water. The precipitate was filtered off and dried in a vacuum. There were obtained white crystals which were recrystallized from methanol/dimethylformamide. Yield: 0.41 g (74%) of 9,10-dimethyl-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione as yellowish crystals; m.p. >350° C.

reactant | ethyl 5,6-dimethyl-2-hydroxy-quinazolin-4-yl-carbazate | 0.0020 mol, 0.67 g | CC1=C2C(=NC(=NC2=CC=C1C)O)N(C(=O)OCC)N | C13H16N4O3
reactant | dimethylformamide | 38 ml | CN(C=O)C | C3H7NO
product | 9,10-Dimethyl-2,3,5,6-tetrahydro-1,2,4-triazolo[4,3-c]quinazoline-3,5-dione | CC1=C(C=2C=3N(C(NC2C=C1)=O)C(NN3)=O)C | C11H10N4O2
